US03971819
By replacing, in Example 52 A, 3-amino-4-anilino-5-sulphamyl-benzoic acid (2 g) by 3-amino-4-anilino-5-phenylsulphamyl-benzoic acid (4.4 g) and increasing the amount of benzyl bromide to 3.9 g, ethyl-4-anilino-3-benzylamino-5-phenylsulphamyl-benzoate was obtained with a melting point of 166°-167°C.

reactant | 3-amino-4-anilino-5-sulphamyl-benzoic acid | 2 g | NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC=C1)S(N)(=O)=O | C13H13N3O4S
reactant | 3-amino-4-anilino-5-phenylsulphamyl-benzoic acid | 4.4 g | NC=1C=C(C(=O)O)C=C(C1NC1=CC=CC=C1)S(NC1=CC=CC=C1)(=O)=O | C19H17N3O4S
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | ethyl-4-anilino-3-benzylamino-5-phenylsulphamyl-benzoate | C(C)OC(C1=CC(=C(C(=C1)S(NC1=CC=CC=C1)(=O)=O)NC1=CC=CC=C1)NCC1=CC=CC=C1)=O | C28H27N3O4S
